US03944410
p-Fluoronitrobenzene (14.1 grams; 0.1 mol) is dissolved in tetrahydrofuran (100 ml). Ten percent palladium on charcoal catalyst (0.1 gram) is added to the solution followed by hydrazine (6.0 ml; 0.1 mol), and the resulting mixture stirred at room temperature for about 48 hours with cooling as necessary. The reaction mixture, containing N-(4-fluorophenyl)hydroxylamine, is dried over anhydrous magnesium sulfate and filtered. To this solution is added trifluoromethyl isocyanate (11.1 grams; 0.1 mol) and the solution is stirred for about 15 minutes. The reaction mixture is concentrated by evaporation of solvent and the resulting precipitate is recovered by filtration to yield 1-trifluoromethyl-3-(4'-fluorophenyl)-3-hydroxyurea.

reactant | p-Fluoronitrobenzene | 0.1 mol, 14.1 grams | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrazine | 0.1 mol, 6.0 ml | NN | H4N2
reactant | N-(4-fluorophenyl)hydroxylamine | FC1=CC=C(C=C1)NO | C6H6FNO
reactant | trifluoromethyl isocyanate | 0.1 mol, 11.1 grams | FC(F)(F)N=C=O | C2F3NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 0.1 gram | [Pd] | Pd
product | 1-trifluoromethyl-3-(4'-fluorophenyl)-3-hydroxyurea | FC(NC(=O)N(O)C1=CC=C(C=C1)F)(F)F | C8H6F4N2O2
